US04004019
Preparation of 1,7-Dichloro-3,7-dimethyloctane
Into a well stirred solution of citronellyl chloride (8-chloro-2,6-dimethyl-2-octene; 26.1 g, 0.15 mol) in glacial acetic acid (600 ml), hydrochloric acid gas is passed for 4 hours at room temperature. Pentane (300 ml) and water (150 ml) are then added, the mixture stirred and transferred to a separatory funnel with additional pentane and water. The layers are separated, and the pentane layer is washed with several portions of water followed by saturated sodium bicarbonate solution. The pentane layer is then dried, and the solvent evaporated giving a quantitative yield of the product, boiling point 90° C to 93° C at 1.9 mm.

reactant | citronellyl chloride | 0.15 mol, 26.1 g | C(CC(C)CCC=C(C)C)Cl | C10H19Cl
reactant | Pentane | 300 ml | CCCCC | C5H12
reactant | water | 150 ml | O | H2O
reactant | hydrochloric acid | Cl | ClH
solvent | acetic acid | 600 ml | C(C)(=O)O | C2H4O2
product | 1,7-Dichloro-3,7-dimethyloctane | quantitative yield | ClCCC(CCCC(C)(C)Cl)C | C10H20Cl2
